* Netlist snapshot for record 20260909-055500-e2bb637 -- exactly what was simulated.
* DUT: placeholder-v1 (placeholder), sim/dut/placeholder_comparator.spice
* Testbench: sim/comparator-offset-mc/testbench/tb_offset_mc.spice
* ---------------- DUT NETLIST ----------------
* ============================================================================
* PLACEHOLDER DUT -- NOT A DESIGN, NOT A TOPOLOGY PROPOSAL
* ============================================================================
*
* This netlist exists for exactly one reason: so that sim/'s harness, its
* corner grid, its evidence-record format and its four experiment benches can
* be proven to run end to end BEFORE this repo's comparator topology has been
* decided. That decision is spec/porting-plan.md next step 1 and is a separate
* decision record; it is explicitly out of scope for the harness work.
*
* Consequences, stated so nobody has to infer them:
*
*   - NOTHING HERE IS SIZED. The devices are round numbers picked by
*     inspection to give a converging operating point at 3.3 V. No gm/ID
*     study, no noise budget, no offset budget went into any of them.
*   - NO NUMBER MEASURED AGAINST THIS DUT SUBSTANTIATES A SPEC ROW.
*     sim/dut.json declares provenance "placeholder", which makes every
*     record the harness writes against it carry a banner saying so.
*   - THIS IS NOT gf180-sar-adc's COMPARATOR. spec/porting-plan.md ports that
*     repo's testbench METHODOLOGY and forbids porting its topology, sizing
*     or numbers. The front end below is a textbook resistively-loaded
*     differential pair at deliberately different, deliberately unconsidered
*     sizing; the decision stage below is BEHAVIOURAL and therefore commits
*     to no transistor topology at all.
*
* When design/comparator.sch (or its netlist) lands, point sim/dut.json at it
* and re-run. Nothing else in sim/ changes.
*
* Interface contract: sim/dut/README.md.
* Parameters supplied by the harness: dut_ib, dut_vcm, vdd_val, vdd_nom,
* temp_c (sim/harness/runner.py compose_deck).
* ============================================================================


* ---------------------------------------------------------------------------
* comparator_dut_analog -- the DC-resolvable front end.
*
* Exposed as its own subckt because two of the four experiments (offset-MC
* and preamp-noise) are small-signal analyses about a DC operating point.
* See sim/dut/README.md "Why there are two subckts".
*
* Simple NMOS-input pair, 1:1 tail mirror, unsalicided p+ poly loads.
* w/l are round numbers. Do not read intent into them.
* ---------------------------------------------------------------------------
.subckt comparator_dut_analog vinp vinn ibias aop aon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss nfet_03v3 w=10u l=1u
Xmt  atail ibias vss vss nfet_03v3 w=10u l=1u
* Input pair. The device whose gate is vinp drives the INVERTING node aon,
* so v(aop) - v(aon) = +A_v * (v(vinp) - v(vinn)).
Xmip aon vinp atail vss nfet_03v3 w=20u l=1u
Xmin aop vinn atail vss nfet_03v3 w=20u l=1u
* Unsalicided 1 kohm/sq p+ poly loads, 100 squares = 100 kohm nominal.
* Third terminal is the substrate/body contact. `ppolyf_u_1k` is chosen
* because it is the flavour klayout-tools' gf180mcu extraction deck can
* actually select today (2AMLogic/klayout-tools#595, cited in
* spec/porting-plan.md) -- so a placeholder that is later replaced by a real
* design does not hand the layout work an already-known dead end.
Xrlp vdd aop vss ppolyf_u_1k r_width=1u r_length=100u
Xrln vdd aon vss ppolyf_u_1k r_width=1u r_length=100u
.ends comparator_dut_analog


* ---------------------------------------------------------------------------
* comparator_dut_latch -- BEHAVIOURAL regenerative decision stage.
*
* Deliberately behavioural. A transistor-level latch here would be a topology
* choice, and the topology decision is out of scope. What this models is only
* the *observable contract* every latched comparator has, so that the
* regeneration and kickback benches have something real to measure:
*
*   clk low   -> reset: both regeneration nodes pulled to mid-rail
*   clk high  -> evaluate: dv/dt = dv/tau + (input injection), i.e. the
*                exponential regeneration law t = t0 + tau*ln(V/(A*Vin))
*                the regeneration bench extracts tau from
*   output    -> held between decisions, flipping only once the regeneration
*                nodes have separated past an absolute threshold (an SR
*                latch's behaviour, not a differential zero-crossing)
*
* c_fb IS THE PART THAT MATTERS FOR KICKBACK and it is an explicit, declared
* stand-in: a real latch's input pair couples its rail-to-rail regeneration
* nodes back to its inputs through C_gd. Modelling that as an explicit 5 fF
* per side means the kickback bench measures a real path (regeneration node
* -> front-end output -> input-pair C_gd -> input node) instead of reporting
* a fictitious zero. The VALUE is a placeholder like everything else here.
* ---------------------------------------------------------------------------
.subckt comparator_dut_latch inp inn clk dout doutb vdd vss
.param g_reg=5m
.param c_reg=500f
.param g_in=5m
.param v_lim=0.4
.param c_fb=5f
.param g_clamp=1
.param r_hold=200
.param c_hold=100f
.param v_th=0.8
.param v_sharp=0.1
.param r_rst=100
* Clock enable, smoothed so the B-source expressions stay differentiable.
Ben  ken 0 v = '0.5*(1+tanh((v(clk)-0.5*v(vdd,vss))/0.05))'
Cqp  qp 0 {c_reg}
Cqn  qn 0 {c_reg}
* Positive feedback (tanh-limited) plus input injection. tau = c_reg/(2*g_reg).
Bqp  0 qp i = 'v(ken)*( g_reg*v_lim*tanh((v(qp)-v(qn))/v_lim) + g_in*(v(inp)-v(inn)) )'
Bqn  0 qn i = '-v(ken)*( g_reg*v_lim*tanh((v(qp)-v(qn))/v_lim) + g_in*(v(inp)-v(inn)) )'
* Reset to mid-rail while clk is low.
Brp  0 qp i = '(1-v(ken))*(0.5*v(vdd,vss)-v(qp))/r_rst'
Brn  0 qn i = '(1-v(ken))*(0.5*v(vdd,vss)-v(qn))/r_rst'
* Rail clamps -- the regeneration nodes are supply-bounded, like real ones.
Bcp  qp 0 i = 'g_clamp*(max(v(qp)-v(vdd),0)+min(v(qp)-v(vss),0))'
Bcn  qn 0 i = 'g_clamp*(max(v(qn)-v(vdd),0)+min(v(qn)-v(vss),0))'
* Latch input pair C_gd, explicit. This is the kickback path (see header).
Ckp  qp inp {c_fb}
Ckn  qn inn {c_fb}
* Output hold. Tracks the decision only once |v(qp)-v(qn)| passes v_th, so
* the output delay is a real function of overdrive rather than of the moment
* the differential crosses zero. Rh keeps the node non-floating for `op`.
Ch   h 0 {c_hold}
Rh   h vss 1G
Bh   0 h i = 'v(ken)*0.5*(1+tanh((abs(v(qp)-v(qn))-v_th)/v_sharp))*(v(vdd,vss)*0.5*(1+tanh((v(qp)-v(qn))/v_sharp))-v(h))/r_hold'
Bdo  dout  0 v = 'min(max(v(h),v(vss)),v(vdd))'
Bdob doutb 0 v = 'v(vdd)-min(max(v(h),v(vss)),v(vdd))'
.ends comparator_dut_latch


* ---------------------------------------------------------------------------
* comparator_dut -- the full clocked comparator the transient benches drive.
* ---------------------------------------------------------------------------
.subckt comparator_dut vinp vinn clk ibias dout doutb vdd vss
Xa vinp vinn ibias aop aon vdd vss comparator_dut_analog
Xl aop aon clk dout doutb vdd vss comparator_dut_latch
.ends comparator_dut

* ---------------- TESTBENCH FRAGMENT ----------------
* tb_offset_mc -- Monte-Carlo input-referred offset of the comparator front
* end, and the part of that offset that MOVES with input common mode.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm.
*
* METHODOLOGY PORTED FROM gf180-sar-adc/sim/comparator-offset-mc/ -- see this
* experiment's README.md for the full transfer/non-transfer list. In one
* line: `setseed <n>` once, then N draws through a `dowhile`/`reset` loop,
* each draw re-evaluating the agauss expressions inside the PDK's `fets_mm`
* subcircuits, with the gain of the SAME draw measured by a second DC point
* so that offset = -dv0/A_v is a real offset rather than a difference of two
* independent populations.
*
* STANDALONE STIMULUS. gf180-sar-adc's version of this bench sweeps the
* common-mode band its CDAC produces in single-ended mode. There is no CDAC
* here and no SAR sequencer: the stimulus is an ideal differential DC source
* riding on an ideal common-mode source, and the common-mode band swept is a
* stated +/-50 mV about the DUT's own specified `dut_vcm` -- a property of
* the comparator, not of anything driving it.
*
* MISMATCH IS TURNED ON HERE, IN THE FRAGMENT, NOT IN THE MANIFEST'S params.
* The harness emits manifest params AHEAD of the model includes, and
* design.ngspice sets sw_stat_mismatch = 0; a manifest param would therefore
* be silently overridden and the entire Monte Carlo would collapse to
* sigma = 0 while still looking like it ran. Setting it after the includes
* (this fragment is included after them) is the only placement that works.

.param sw_stat_mismatch=1

.param c_route=10f
.param vcm_step=50m

* ---- supply ----------------------------------------------------------
vsup vdd 0 dc {vdd_val}

* ---- ideal standalone stimulus ---------------------------------------
* cm  = dut_vcm + vcmd, so sweeping `vcmd` moves the input common mode
* without the manifest having to know what dut_vcm is.
vcmb cmb 0 dc {dut_vcm}
vcmd cm  cmb dc 0
vd   vd 0 dc 0
Eap  ap cm vd 0 0.5
Ean  an cm vd 0 -0.5

* ---- device under test (front end; see sim/dut/README.md) -------------
ib   vdd ibn dc {dut_ib}
Xa   ap an ibn aop aon vdd 0 comparator_dut_analog

* Routing allowance on each front-end output. Deliberately SMALL: loading
* this node harder would only lower the bandwidth, which does not affect a
* DC offset measurement, but keeping the same allowance as the noise bench
* means the two benches see the same circuit.
Cwp aop 0 {c_route}
Cwn aon 0 {c_route}

* ---- NULL CONTROL: resistor local mismatch ---------------------------
* Two identical unsalicided poly resistors, each fed 1 uA, read as the
* difference of their terminal voltages. EXPECTED TO BE EXACTLY ZERO:
* gf180mcu wires `*(1+mis_r*sw_stat_mismatch)` into its resistor subcircuits
* but hard-sets mis_r = 0 and leaves the area-scaled agauss expression
* commented out, so this PDK models NO resistor local mismatch at all.
* Keeping it as a live check rather than a comment makes it a regression
* guard: a PDK revision that switches mis_r on fails here instead of
* silently changing the meaning of every offset record in this repo. It also
* states, in the record itself, that the reported offset sigma contains no
* load-mismatch term and that such a term must be budgeted by hand.
irefa 0 rpa dc 1u
Xra   rpa 0 0 ppolyf_u_1k r_width=1u r_length=100u
irefb 0 rpb dc 1u
Xrb   rpb 0 0 ppolyf_u_1k r_width=1u r_length=100u
